US04834904
A mixture of 8 g of (S,S)-3-methyl-2-chloropentanoic acid, 16 g of p-(5-n-octylpyrimidin-2-yl)phenol, 11.6 of N,N-dicyclohexylcarbodiimide, 0.6 g of 4-N,N-dimethylaminopyridine and 300 ml of dichloromethane is stirred overnight at room temperature. After filtering off the precipitated urea derivative, the filtrate is washed with dilute hydrochloric acid and water, and the organic phase is worked up in the usual manner. p-(5-n-Octylpyrimidin-2-yl)-phenyl (S,S)-3-methyl-2-chloropentanoate is obtained.

reactant | (S,S)-3-methyl-2-chloropentanoic acid | 8 g | C[C@H]([C@@H](C(=O)O)Cl)CC | C6H11ClO2
reactant | p-(5-n-octylpyrimidin-2-yl)phenol | 16 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | p-(5-n-Octylpyrimidin-2-yl)-phenyl (S,S)-3-methyl-2-chloropentanoate | C[C@H]([C@@H](C(=O)OC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCC)Cl)CC | C24H33ClN2O2
